US09260425B2
A mixture of 68 mg (0.18 mmol) of 5-(3,4-dihydro-2H-pyran-5-yl)-3-(6-fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine, 2.0 ml (21 mmol) of 1,4-cyclohexadiene and 300 mg of 10% palladium on carbon in 8 ml of ethanol was heated to reflux for 24 hours. The mixture was filtered through celite, the filtrate concentrated in vacuum to afford 70 mg (100%) of 3-(6-Fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-5-(tetrahydro-2H-pyran-3-yl)-1H-pyrazolo[3,4-c]pyridine. ESI MS m/z 383.1 (M+1).

reactant | 5-(3,4-dihydro-2H-pyran-5-yl)-3-(6-fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 0.18 mmol, 68 mg | O1CCCC(=C1)C=1C=C2C(=CN1)N(N=C2C2=NC(=CC=C2)F)C2OCCCC2 | C21H21FN4O2
reactant | 1,4-cyclohexadiene | 21 mmol, 2.0 ml | C1=CCC=CC1 | C6H8
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 3-(6-Fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-5-(tetrahydro-2H-pyran-3-yl)-1H-pyrazolo[3,4-c]pyridine | 70 mg, 100% | FC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C2COCCC2)C2OCCCC2 | C21H23FN4O2
